US05236957
22.4 g (0.203 mol) of glycinamide hydrochloride are suspended in 1000 ml of dry methanol and 10.2 g (0.162 mol) of sodium cyanoborohydride are added while stirring under nitrogen. After solubilization of the mixture, 50 g (0.203 mol) of 3-chlorobenzyloxybenzaldehyde are added in a single portion. The reaction mixture is stirred 8 hours at room temperature and then allowed to stand 16 hours. The solution is filtered and evaporated, taken up with water and extracted three times with methylene chloride. After drying and evaporating, the crude residue is chromatographed on silica gel (eluant: chloroform/methanol/conc. NH4OH; 97/3/0.3) to give 2-[4-(3-chlorobenzyl)oxybenzyl] aminoacetamide which by reaction with the stoichiometric amount of gaseous HCl in ethanol is transformed into its hydrochloride (32.1 g, 46.3%, m.p.: 225°-230° C.).

reactant | glycinamide hydrochloride | 0.203 mol, 22.4 g | Cl.NCC(=O)N
reactant | sodium cyanoborohydride | 0.162 mol, 10.2 g | C(#N)[BH3-].[Na+]
reactant | 3-chlorobenzyloxybenzaldehyde | 0.203 mol, 50 g | ClC=1C(=C(C=O)C=CC1)OCC1=CC=CC=C1 | C14H11ClO2
solvent | methanol | 1000 ml | CO | CH4O
product | 2-[4-(3-chlorobenzyl)oxybenzyl] aminoacetamide | ClC=1C=C(COC2=CC=C(CNCC(=O)N)C=C2)C=CC1 | C16H17ClN2O2
